US05891902
1-{3-{Bis[4-(methoxymethoxy)phenyl]methyl}indol-2-ylcarbonyl}-4-(2-chlorophenyl)piperazine (Compound 1)
Boron trifluoride-ether complex (0.36 ml, 2.94 mmol) was added dropwise at 0° C. to a solution of 4,4'-bis(methoxymethoxy)benzhydrol (8.96 g, 29.43 mmol) and 1-(2-chlorophenyl)-4-(indol-2-ylcarbonyl)piperazine (10.0 g, 29.43 mmol) in 200 ml of methylene chloride, followed by stirring at 0° C. to room temperature for 2 hours. A saturated aqueous solution of sodium bicarbonate was added to the reaction solution for neutralization followed by extraction with chloroform. The resulting organic layer was washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride, and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure to give a crude product. The obtained crude product was recrystallized from ethanol to, give 15.1 g (yield: 82%) of the title compound.

reactant | 4,4'-bis(methoxymethoxy)benzhydrol | 29.43 mmol, 8.96 g | COCOC1=CC=C(C(C2=CC=C(C=C2)OCOC)O)C=C1 | C17H20O5
reactant | 1-(2-chlorophenyl)-4-(indol-2-ylcarbonyl)piperazine | 29.43 mmol, 10.0 g | ClC1=C(C=CC=C1)N1CCN(CC1)C(=O)C=1NC2=CC=CC=C2C1 | C19H18ClN3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 1-{3-{Bis[4-(methoxymethoxy)phenyl]methyl}indol-2-ylcarbonyl}-4-(2-chlorophenyl)piperazine | 15.1 g, yield: 82% | COCOC1=CC=C(C=C1)C(C1=C(NC2=CC=CC=C12)C(=O)N1CCN(CC1)C1=C(C=CC=C1)Cl)C1=CC=C(C=C1)OCOC | C36H36ClN3O5
